US04303660
5-(o-Aminophenyl)-4-nitropyrazole is reacted with p-anisaldehyde as given in Example 11. 1-Nitro-5-(p-methoxyphenyl)-5,6-dihydropyrazolo[1,5-c]quinazoline is obtained with a yield of 97%. M.p.: 181°-183° C.

reactant | 5-(o-Aminophenyl)-4-nitropyrazole | NC1=C(C=CC=C1)C1=C(C=NN1)[N+](=O)[O-] | C9H8N4O2
reactant | p-anisaldehyde | C(C1=CC=C(C=C1)OC)=O | C8H8O2
product | 1-Nitro-5-(p-methoxyphenyl)-5,6-dihydropyrazolo[1,5-c]quinazoline | yield of 97% | [N+](=O)([O-])C=1C=NN2C(NC=3C=CC=CC3C21)C2=CC=C(C=C2)OC | C17H14N4O3
